US09302991B2
<Step-4>:2-hydroxy-2-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl 4-methylbenzenesulfonate (single enantiomer)
A mixture of 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethane-1,2-diol (1.01 g, 4.24 mmol, Step-3, single enantiomer), p-toluenesulfonyl chloride (0.97 g, 5.09 mmol) and pyridine (3.43 mL, 42.4 mmol) in dichloromethane (21 mL) is stirred at room temperature for 20 hours. Then p-toluenesulfonyl chloride (0.97 g, 5.09 mmol) is added to the reaction mixture and stirred for 24 hours. The reaction mixture is poured into water and extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (2:1 to 1:1) to give 1.64 g (99% yield) of the title compound as colorless oil.

reactant | 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethane-1,2-diol | 4.24 mmol, 1.01 g | FC(COC1=CC=C(C=N1)C(CO)O)(F)F | C9H10F3NO3
reactant | p-toluenesulfonyl chloride | 5.09 mmol, 0.97 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 42.4 mmol, 3.43 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 5.09 mmol, 0.97 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
product | 2-hydroxy-2-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl 4-methylbenzenesulfonate | 1.64 g, 99% yield | CC1=CC=C(C=C1)S(=O)(=O)OCC(C=1C=NC(=CC1)OCC(F)(F)F)O | C16H16F3NO5S
